US06949567B2
4-[3-(3-Cyanophenyl)-ureido]-N-(2,3,6-trifluorobenzyl)-benzenesulfonamide (230 mg, 0.5 mmol) was dissolved in HCl/MeOH (25 ml, 7 M) at 0° C. under inert atmosphere and stirred overnight at rt. The solution was concentrated and dried in vacuo to yield 99% of 3-{3-[4-(2,3,6-trifluorobenzyl-sulfamoyl)-phenyl]-ureido}-benzimidic acid methyl ester.

reactant | 4-[3-(3-Cyanophenyl)-ureido]-N-(2,3,6-trifluorobenzyl)-benzenesulfonamide | 0.5 mmol, 230 mg | C(#N)C=1C=C(C=CC1)NC(NC1=CC=C(C=C1)S(=O)(=O)NCC1=C(C(=CC=C1F)F)F)=O | C21H15F3N4O3S
reactant | HCl MeOH | 7 M, 25 ml | Cl.CO
product | 3-{3-[4-(2,3,6-trifluorobenzyl-sulfamoyl)-phenyl]-ureido}-benzimidic acid methyl ester | 99% | COC(C1=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)S(NCC1=C(C(=CC=C1F)F)F)(=O)=O)=N | C22H19F3N4O4S
